US05684011
Step 1: 4-dimethylamino-1,1-dimethoxy-3-buten-2-one
1,1-dimethoxyacetone (pyruvic aldehyde dimethyl acetal, Aldrich Chemical Co.) (3 cm3) was added dropwise with stirring to tert-butoxy-bis(dimethylamino)methane (Fluka Chemie AG) (5 cm3) and stirring continued at ambient temperature for 16 hours. The low-boiling impurities were removed by evaporation under reduced pressure. This left an orange oil (5.82 g) (1H NMR (CDCl3): δ2.88(3H,br s); 3.10(3H,br s); 3.40(6H,s); 4.58(1H,s); 5.34(1H,d); 7.76(1H,d)).

reactant | 1,1-dimethoxyacetone | 3 cm3 | COC(C(=O)C)OC | C5H10O3
reactant | tert-butoxy-bis(dimethylamino)methane | 5 cm3 | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 4-dimethylamino-1,1-dimethoxy-3-buten-2-one | CN(C=CC(C(OC)OC)=O)C | C8H15NO3
